US08470820B2
Step 3: 5-Bromo-2-methoxymethyl-pyrimidine-4-carboxylic acid methyl ester
To a solution of 5-bromo-2-methoxymethyl-pyrimidine-4-carboxylic acid (2.5 g, 10.1 mmol) in acetone (100 ml) was added Cs2CO3 (19.8 g, 60.7 mmol) followed by methyliodide (3.8 ml, 60.7 mmol). The mixture was heated to reflux for 8 h. The reaction mixture was then filtered, and the filtrate was evaporated. The crude material was purified by silica gel chromatography using a ethyl acetate/hexane eluent to yield 700 mg (27%) of the title compound as yellow oil.

reactant | 5-bromo-2-methoxymethyl-pyrimidine-4-carboxylic acid | 10.1 mmol, 2.5 g | BrC=1C(=NC(=NC1)COC)C(=O)O | C7H7BrN2O3
reactant | Cs2CO3 | 60.7 mmol, 19.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyliodide | 60.7 mmol, 3.8 ml | CI | CH3I
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 5-Bromo-2-methoxymethyl-pyrimidine-4-carboxylic acid methyl ester | 700 mg, 27% | COC(=O)C1=NC(=NC=C1Br)COC | C8H9BrN2O3
